US07262185B2
Under argon atmosphere, to a mixture of 4-fluorophenylacetonitrile (3.97 g), 2-bromo-3-methylpyridine (5.00 g) and sodium 4-methylphenylsulfinate (10.48 g) in THF (125 ml) was added sodium hydride (2.35 g, 60%) at 0° C. to the mixture, and the mixture was heated to reflux for 3.5 hours. The reaction mixture was added to water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure, and the obtained residue was separated and purified by column chromatography (ethyl acetate:hexane 1:3), to give 2-(α-cyano-4-fluorobenzyl)-3-methylpyridine (5.14 g) as brown oil.

reactant | 4-fluorophenylacetonitrile | 3.97 g | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | 2-bromo-3-methylpyridine | 5.00 g | BrC1=NC=CC=C1C | C6H6BrN
reactant | sodium 4-methylphenylsulfinate | 10.48 g | CC1=CC=C(C=C1)S(=O)[O-].[Na+]
reactant | sodium hydride | 2.35 g | [H-].[Na+]
solvent | THF | 125 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(α-cyano-4-fluorobenzyl)-3-methylpyridine | 5.14 g | C(#N)C(C1=CC=C(C=C1)F)C1=NC=CC=C1C | C14H11FN2
